US05922771
N-[2-(6-Bromo-5-methoxy-1H-inden-3-yl)ethyl]acetamide
Starting with 2-(6-bromo-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride and acetyl chloride, the title compound was synthesized in otherwise the same manner as Example 8 (yield 83%).

reactant | 2-(6-bromo-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride | Cl.BrC1=C(C=C2C(=CCC2=C1)CCN)OC
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[2-(6-Bromo-5-methoxy-1H-inden-3-yl)ethyl]acetamide | BrC1=C(C=C2C(=CCC2=C1)CCNC(C)=O)OC | C14H16BrNO2
